US07259177B2
cis-3-Allylcyclohexanol
87 ml of a 1 molar solution of lithium diisobutylaluminum hydride in n-hexane are dissolved in 100 ml of diethyl ether, and 7 ml of isopropanol are added at 0° C. After the evolution of gas has ceased, 12.4 g of cis-3-allylcylohexanone, dissolved in 50 ml of diethyl ether, are added. The mixture is stirred at room temperature for 48 hours. The reaction mixture is quenched by addition of 1M HCl and the aqueous phase is saturated with sodium chloride and extracted five times with in each case 200 ml of ethyl acetate. The combined organic phases are washed with 2N NaOH and dried over MgSO4, and the solvent is then removed under reduced pressure. The residue is purified on silica gel using the mobile phase n-heptane:ethyl acetate=15:1=>5:1. This gives 6.8 g of cis-3-allylcyclohexanol as an oil. C9H160 (140.23), MS(ESI): 141 (M+H+), Rf(n-heptane:ethyl acetate=2:1)=0.22.

reactant | lithium diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C.[Li+].[H-]
reactant | isopropanol | 7 ml | C(C)(C)O | C3H8O
reactant | n-hexane | CCCCCC | C6H14
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | cis-3-Allylcyclohexanol | C(C=C)[C@H]1C[C@H](CCC1)O | C9H16O
